US06150352
Step 3.2D 2-{2-[7-chloro-3-(3,5-dimethylphenyl)-6-(4-methyl-5-oxo-4,5-dihydro-tetrazol-1-yl)-2-oxo-1,2-dihydro-quinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid 2-trimethylsilanylethyl ester
To a solution of 2-{2-[7-chloro-3-(3,5-dimethylphenyl)-2-oxo-6-(5-oxo-4,5-dihydro-tetrazol-1-yl) -1,2-dihydro-quinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid 2-trimethylsilanylethyl ester (35 mg in 2 mL dry N,N-dimethylformamide) was added 26 mg of finely powdered potassium carbonate followed by 0.011 mL iodomethane and the mixture stirred at room temperature. After 30 minutes, the reaction was quenched by the addition of saturated ammonium chloride and the mixture partitioned between ethyl acetate and water. The organic layer was isolated and washed with water and brine, then dried over sodium sulfate. Purification of the concentrate by preparative tlc on silica gel (hexane:ethyl acetate, 3:2) gave the title compound (21 mg).

reactant | 2-{2-[7-chloro-3-(3,5-dimethylphenyl)-2-oxo-6-(5-oxo-4,5-dihydro-tetrazol-1-yl) -1,2-dihydro-quinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid 2-trimethylsilanylethyl ester | 2 mL, 35 mg | C[Si](CCOC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)N1N=NNC1=O)Cl)=O)C1=CC(=CC(=C1)C)C)(C)C | C31H39ClN6O5Si
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 0.011 mL | IC | CH3I
product | 2-{2-[7-chloro-3-(3,5-dimethylphenyl)-6-(4-methyl-5-oxo-4,5-dihydro-tetrazol-1-yl)-2-oxo-1,2-dihydro-quinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid 2-trimethylsilanylethyl ester | 21 mg | C[Si](CCOC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)N1N=NN(C1=O)C)Cl)=O)C1=CC(=CC(=C1)C)C)(C)C | C32H41ClN6O5Si
